US07514461B2
To a solution of 2,2,7,8-tetramethyl-chroman-6-ol (305 mg, 1.39 mmol), in 5 mL dry dioxane was added boron trifluoride (296 mg, 2.1 mmol). It was stirred for 3 min followed by dropwise addition of 2-methyl-but-3-en-2-ol solution (143 mg, 1.66 mmol, in 3 mL of dioxane). The reaction was allowed to stir for 5 h at RT before quenching on to ice (80 g). The mixture was extracted with DCM (3×50 mL) and the combined organic layers were dried over Na2SO4 and concentrated under reduced pressure. The crude product was purified by chromatography (hexane) to afford 2,2,7,8-tetramethyl-5-(3-methyl-but-2-enyl)-chroman-6-ol as a light brown oil (229 mg). 1H-NMR (300 MHz, CDCl3) δ (ppm): 5.16 (m, 1H), 4.70 (s, 1H), 3.34 (d, J=6.8 (2H), 2.18 (s, 3H), 2.14 (s, 3H), 1.86 (s, 3H), 1.81 (t, J=13.8, 2H), 1.77 (s, 3H), 1.32 (s, 6H); 13C-NMR δ (ppm): 145.7, 145.4, 134.1, 123.5, 122.2, 122.0, 121.8, 116.3, 72.5, 33.1, 26.7, 25.8, 20.8, 17.9, 12.1, 11.9; (ESI) m/z: 275 (M+H+, 100%).

reactant | 2,2,7,8-tetramethyl-chroman-6-ol | 1.39 mmol, 305 mg | CC1(OC2=C(C(=C(C=C2CC1)O)C)C)C | C13H18O2
reactant | boron trifluoride | 2.1 mmol, 296 mg | B(F)(F)F | BF3
reactant | 2-methyl-but-3-en-2-ol | 1.66 mmol, 3 mL, 143 mg | CC(C)(C=C)O | C5H10O
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 2,2,7,8-tetramethyl-5-(3-methyl-but-2-enyl)-chroman-6-ol | 229 mg | CC1(OC2=C(C(=C(C(=C2CC1)CC=C(C)C)O)C)C)C | C18H26O2
